US07902220B2
a. 2,2-Dimethylpropyl-(2-oxoethyl)-carbamic acid benzyl ester
To a solution of pivaldehyde (1.00 mL, 0.00921 mol) in DCM (30 mL) was added 2,2-diethoxy-ethanamine, (1.35 mL, 0.00921 mol) followed by sodium triacetoxyborohydride (2.15 g, 0.0101 mol). The reaction mixture was stirred at room temperature for 1 h and then DIPEA (1.43 g, 0.0110) mol) was added. The reaction mixture was cooled to 0° C., and benzyl chloroformate (1.88 g, 0.0110 mol) was added dropwise. The reaction mixture was stirred for 1 h, concentrated, and 6 M TFA in water (20 mL) was added. The reaction mixture was stirred for 2 h and the TFA was removed under vacuum. The resulting aqueous solution was diluted with saturated NaCl (15 mL) The product was extracted with ethyl acetate (25 mL. The organic layer was collected, dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was purified by flash column chromatography eluting with 10-20% ethyl acetate in hexanes to give an oil (2.2 g) which was further purified by flash column chromatography to give the title compound as a yellow oil (0.72 g).

reactant | pivaldehyde | 0.00921 mol, 1.00 mL | CC(C)(C)C=O | C5H10O
reactant | 2,2-diethoxy-ethanamine | 0.00921 mol, 1.35 mL | C(C)OC(CN)OCC | C6H15NO2
reactant | sodium triacetoxyborohydride | 0.0101 mol, 2.15 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DIPEA | 1.43 g | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 0.0110 mol, 1.88 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethylpropyl-(2-oxoethyl)-carbamic acid benzyl ester | 2.2 g | C(C1=CC=CC=C1)OC(N(CC=O)CC(C)(C)C)=O | C15H21NO3
